US09238652B2
Synthesis of tert-butyl 4-bromo-2-fluorobenzoate (Compound (C))
To a 100 ml jacketed reactor equipped with a mechanical stirrer was charged 4-bromo-2-fluoro1-iodobenzene, “Compound (A)” (5 g, 1.0 eq) and THF (25 ml). The solution was cooled to −5° C. 2M isopropyl magnesium chloride in THF (10.8 ml, 1.3 eq) was slowly added maintaining the internal temperature below 0° C. The mixture was stirred at 0° C. for 1 h. Di-tert-butyl dicarbonate (5.44 g, 1.5 eq) in THF (10 ml) was added. After 1 h, the solution was quenched with 10% citric acid (10 ml), and then diluted with 25% NaCl (10 ml). The layers were separated and the organic layer was concentrated to near dryness and chased with THF (3×10 ml). The crude oil was diluted with THF (5 ml), filtered to remove inorganics, and concentrated to dryness. The crude oil (6.1 g, potency=67%, potency adjusted yield=88%) was taken to the next step without further purification. 1H NMR (DMSO-d6): δ 1.53 (s, 9H), 7.50-7.56 (m, 1H), 7.68 (dd, J=10.5, 1.9 Hz, 1H), 7.74 (t, J=8.2 Hz, 1H).

reactant | 4-bromo-2-fluoro1-iodobenzene | BrC1=CC(=C(C=C1)I)F | C6H3BrFI
reactant | isopropyl magnesium chloride | 2M | C(C)(C)[Mg]Cl
reactant | Di-tert-butyl dicarbonate | 5.44 g, 1.5 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10.8 ml, 1.3 eq | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | tert-butyl 4-bromo-2-fluorobenzoate | yield=88% | BrC1=CC(=C(C(=O)OC(C)(C)C)C=C1)F | C11H12BrFO2
